US04829099
Trimethylolpropane (26.84 g, 0.2 mole) was treated with p-nitrobenzoyl chloride (117 g, 0.63 mole), following the general procedure described in Example 1. Part A. The product was worked up in the usual way, except that precipitation occurred during the treatment with saturated aqueous sodium bicarbonate. The mixture was therefore heated to effect solution, the phases separated, the organic phase washed with saturated sodium bicarbonate (3×), and dried over MgSO4. The product crystallized during drying and the mixture was therefore heated to boiling, filtered hot, the solid washed with hot ethyl acetate and hexanes added to the filtrate to induce crystallization. The product, tris-(4-nitrobenzoyl)-trimethylolpropane (67 g) was obtained at a pale yellow solid, m.p. 104°-106° C., which was homogeneous by TLC.

reactant | Trimethylolpropane | 0.2 mole, 26.84 g | C(O)C(CC)(CO)CO | C6H14O3
reactant | p-nitrobenzoyl chloride | 0.63 mole, 117 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | tris-(4-nitrobenzoyl)-trimethylolpropane | 67 g | [N+](=O)([O-])C1=CC=C(C(=O)C(CC(CO)(CO)CO)(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C27H23N3O12
